US06884868B1
To the solution of 1-bromo-4-(4-methoxybutoxy)benzene (4.94 g) and magnesium (463 mg) in tetrahydrofuran (50 ml) was added iodine at room temperature. The solution was refluxed for 7.5 hours, during which period diiodoethane was added to the mixture. After cooling to 0° C., 4-[4-(4-oxopiperidin-1-yl)phenyl]piperazine-1-carboxylic acid benzyl ester (4.94 g) in tetrahydrofuran (20 ml) was added dropwise with stirring to the solution. The mixture was stirred at room temperature for 2 hours. The reaction mixture was added to a mixture of ammonium chloride solution and ethyl acetate. The organic layer was taken, washed with brine, sodium hydrogen carbonate solution and brine and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (50:1 dichloromethane-methanol elution) to give 4-[4-[4-hydroxy-4-[4-(4-methoxybutoxy)phenyl]piperidin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester (3.42 g).

reactant | 1-bromo-4-(4-methoxybutoxy)benzene | 4.94 g | BrC1=CC=C(C=C1)OCCCCOC | C11H15BrO2
reactant | magnesium | 463 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | diiodoethane | IC(C)I | C2H4I2
reactant | 4-[4-(4-oxopiperidin-1-yl)phenyl]piperazine-1-carboxylic acid benzyl ester | 4.94 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)=O | C23H27N3O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-[4-hydroxy-4-[4-(4-methoxybutoxy)phenyl]piperidin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester | 3.42 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)(C1=CC=C(C=C1)OCCCCOC)O | C34H43N3O5
